Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Penicillins
 
Attending: ___.
 
Chief Complaint:
SOB/BLE edema
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Mr. ___ is a ___ female with DMII,
hypertension, hyperlipidemia, and multiple myeloma on RVD who
presents with shortness of breath and lower extremity swelling.

Patient presented to clinic today for C3D11 VD. Vitals were Temp
97.9, BP 187/81, HR 87, RR 16, and O2 sat 96% RA. She reported
shortness of breath at night for the past 2 days particularly
while laying flat. She also noted shortness of breath with
exertion. She notes worsened bilateral lower extremity edema 
over
the past few days. Her weight is up by 10 pounds over the past
week and 30 pounds over the past month. She was switched from
HCTZ to Lasix on ___ and she confirms that she has been taking
the Lasix as prescribed. Labs notable for WBC 7.6, H/H 9.2/30.0,
Plt 110, K 4.4, BUN/Cr ___, and trop T < 0.01. EKG was done
and unchanged from prior. Her velcade was held. She was
transferred to the ED for further evaluation.

On arrival to the ED, initial vitals were 98.7 56 179/81 15 98%
RA. Exam was notable for systolic murmur, diffuse rales, and
lower extremity pitting edema to the thigs. BNP was 1436. CXR
showed moderate to marked enlargement the cardiac silhouette and
moderate pulmonary vascular congestion. Bilateral LENIs were
negative for DVT. Patient was given 20mg IV Lasix, 400mg PO
acyclovir, and 10mg PO atorvastatin. Prior to transfer vitals
were 97.5 50 152/71 19 96% RA.

On arrival to the floor, patient reports shortness of breath
improved. She denies fevers/chills, headache, vision changes,
dizziness/lightheadedness, weakness/numbness, cough, hemoptysis,
chest pain, palpitations, abdominal pain, nausea/vomiting,
diarrhea, hematemesis, hematochezia/melena, dysuria, hematuria,
and new rashes.

REVIEW OF SYSTEMS: A complete 10-point review of systems was
performed and was negative unless otherwise noted in the HPI.

PAST ONCOLOGIC HISTORY:
Presented to ___ for progressive SOB at rest and 
when
lying flat for weeks to months and progessive unintentional
weight loss over several months. Found to have new anemia,
hypercalcemia, mild creatinine elevation. Found to have
monoclonal IgGlambda >8000. BM biopsy showed 90% involvement 
with
plasma cells c/w myeloma. FISH w/ gain of 1q, monosomy 13, IGH
gene rearrangement, and C-MYC gene rearrangement. Met all CRAB
criteria as skeletal survey shows multiple lytic lesions.

 
Past Medical History:
PAST ONCOLOGIC HISTORY:
Presented to ___ for progressive SOB at rest and 
when
lying flat for weeks to months and progessive unintentional
weight loss over several months. Found to have new anemia,
hypercalcemia, mild creatinine elevation. Found to have
monoclonal IgGlambda >8000. BM biopsy showed 90% involvement 
with
plasma cells c/w myeloma. FISH w/ gain of 1q, monosomy 13, IGH
gene rearrangement, and C-MYC gene rearrangement. Met all CRAB
criteria as skeletal survey shows multiple lytic lesions.

TREATMENT SUMMARY:
- ___: C1D1 VD
- ___: C2D1 VD
- ___: C3D1 VD

PAST MEDICAL HISTORY:
- DMII
- Hypertension
- Hyperlipidemia
- s/p tonsillectomy
 
Social History:
___
Family History:
Denies family history of malignancy. Parents passed when she was 
young and she doesn't know their medical history.  
 
Physical Exam:
ADMISSION PHYSICAL EXAM
===============================
VS: Temp 97.4, BP 176/80, HR 52, RR 18, O2 sat 98% RA.
GENERAL: Pleasant woman, in no distress, lying in bed
comfortably.
HEENT: Anicteric, PERLL, OP clear.
CARDIAC: RRR.
LUNG: Appears in no respiratory distress, bibasilar crackles.
ABD: Soft, non-tender, non-distended, positive bowel sounds.
EXT: Warm, well perfused, 2+ lower extremity edema.
NEURO: A&Ox3, good attention and linear thought, gross strength
and sensation intact.
SKIN: No significant rashes

DISCHARGE PHYSICAL EXAM
================================
vss
GENERAL: Pleasant woman,  fatigue appearing, lying in bed 
HEENT: Anicteric, PERLL, OP clear.
NECK: Supple. JVP up. 2+/2+ carotids without bruits. No 
kyphosis.
CV: RRR. No M/R/G
LUNG: mildly labored, fine crackles bases, fair aeration.
ABD: Soft, non-tender, non-distended, positive bowel sounds.
EXT: WWP, 2+ lower extremity edema, up to thighs.
NEURO: A&Ox3, good attention and linear thought, gross strength
and sensation intact.
SKIN: No significant rashes or lesions.
ACCESS: PIV. Infiltration on prior LUE PIV site.
 
Pertinent Results:
ADMISSION LABS
====================
___ 05:40AM BLOOD WBC-7.0 RBC-2.86* Hgb-8.3* Hct-27.1* 
MCV-95 MCH-29.0 MCHC-30.6* RDW-17.6* RDWSD-60.5* Plt ___
___ 05:40AM BLOOD Neuts-66.0 Lymphs-12.4* Monos-20.6* 
Eos-0.3* Baso-0.1 Im ___ AbsNeut-4.59 AbsLymp-0.86* 
AbsMono-1.43* AbsEos-0.02* AbsBaso-0.01
___ 05:50AM BLOOD Poiklo-1+* Ovalocy-1+* Echino-1+* Tear 
Dr-1+* RBC Mor-SLIDE REVI
___ 05:40AM BLOOD Plt ___
___ 05:50AM BLOOD  WBC-6.2 Lymph-13* Abs ___ CD3%-78 
Abs CD3-626 CD4%-47 Abs CD4-376 CD8%-34 Abs CD8-273 CD4/CD8-1.37
___ 05:45AM BLOOD Glucose-81 UreaN-14 Creat-1.1 Na-140 
K-4.3 Cl-106 HCO3-24 AnGap-10
___ 05:40AM BLOOD ALT-21 AST-13 LD(LDH)-258* AlkPhos-88 
TotBili-0.9
___ 06:45AM BLOOD cTropnT-<0.01
___ 05:45AM BLOOD Calcium-7.9* Phos-3.8 Mg-2.1
___ 04:40PM BLOOD ASPERGILLUS GALACTOMANNAN ANTIGEN-PND
___ 04:40PM BLOOD B-GLUCAN-PND

IMAGING STUDIES
====================
CXR ___: Moderate to marked enlargement the cardiac
silhouette. Moderate pulmonary vascular congestion. Relative
increase in opacity over the right lung may be due to asymmetric
vascular congestion/edema, but pneumonia is not excluded in the
appropriate clinical setting.

Bilateral Lower Extremity Ultrasound ___: No evidence of 
deep
venous thrombosis in the right or left lower extremity veins.
Extensive soft tissue swelling is noted bilaterally from the mid
thigh to the lower calves.

TTE ___: The left atrial volume index is SEVERELY increased.
The right atrium is mildly enlarged. There is normal left
ventricular wall thickness with a normal cavity size. There is
normal regional and global left ventricular systolic function.
Quantitative biplane left ventricular ejection fraction is 65 %
(normal 54-73%). There is no resting left ventricular outflow
tract gradient. Mildly dilated right ventricular cavity with
normal free wall motion. Tricuspid annular plane systolic
excursion (TAPSE) is normal. The aortic sinus diameter is normal
for gender with normal ascending aorta diameter for gender. The
aortic arch diameter is normal with a normal descending aorta
diameter. The aortic valve leaflets (3) are mildly thickened.
There is no aortic valve stenosis. There is trace aortic
regurgitation. The mitral valve leaflets appear structurally
normal with no mitral valve prolapse. There is mild [1+] mitral
regurgitation. The pulmonic valve leaflets are normal. The
tricuspid valve leaflets appear structurally normal. There is
physiologic tricuspid regurgitation. There is mild pulmonary
artery systolic hypertension. There is no pericardial effusion.

TTE ___: Mild symmetric left ventricular hypertrophy with
normal cavity size and regional/global biventricular systolic
function. Moderate mitral regurgitation. Mild pulmonary artery
systolic hypertension. Mild aortic regurgitation with mildly
thickened leaflets. Compared with the prior TTE (images 
reviewed)
of ___, the severity of mitral regurgitation
and estimated pulmonary artery systolic pressure are now
increased.

CTA CHEST ___: No evidence of pulmonary embolism to the
segmental level. Ground-glass opacities within the right lower
lobe, adjacent to the pleural effusion, likely reflecting
atelectasis, although underlying infection cannot definitively 
be
excluded. Small bilateral pleural effusions. Mildly dilated main
pulmonary artery, which can be seen in the setting of 
pulmonary hypertension. Diffusely heterogeneous bones, with a
lytic lesion within the sternal manubrium measuring 2.5 cm,
compatible with known multiple myeloma. No evidence of acute
fracture. 

DISCHARGE LABS
===================

___ 05:45AM BLOOD WBC-5.1 RBC-2.85* Hgb-8.2* Hct-26.7* 
MCV-94 MCH-28.8 MCHC-30.7* RDW-17.5* RDWSD-60.8* Plt ___
___ 05:45AM BLOOD Neuts-67.0 Lymphs-16.4* Monos-15.2* 
Eos-0.8* Baso-0.2 Im ___ AbsNeut-3.38 AbsLymp-0.83* 
AbsMono-0.77 AbsEos-0.04 AbsBaso-0.01
___ 05:45AM BLOOD Glucose-91 UreaN-12 Creat-1.0 Na-141 
K-4.5 Cl-109* HCO3-20* AnGap-12
___ 05:45AM BLOOD ALT-17 AST-14 LD(LDH)-252* AlkPhos-77 
TotBili-0.3
___ 05:45AM BLOOD Albumin-3.1* Calcium-7.9* Phos-2.9 Mg-2.3
 
Brief Hospital Course:
Ms. ___ is a ___ female
with DMII, hypertension, hyperlipidemia, and multiple myeloma on
RVD who presents with shortness of breath and lower extremity
swelling, found to have acute on chronic diastolic failure and
c/f pneumonia. 

ACUTE CONDITIONS
=======================

#ACUTE ON CHRONIC DIASTOLIC HEART FAILURE: On initial myeloma
workup/presentation, had SOB and BLE edema with noticeable
systolic murmur radiating to carotids. Ddx: aortic stenosis ___
systolic murmur) vs. anemia vs. heart failure (no history, no
cardiomegaly on CXR but does have BNP elevation and peripheral
edema) vs. pulmonary HTN of unknown etiology vs. pericardial
effusion (resolved per most TTE) in the setting of multiple
myeloma. ACS ruled out with negative troponin x2. ECG on this
showed RBBB and sinus bradycardia. In the setting of BLE edema
and SOB exacerbation, we invoked possibility of medication
related effects (? velcade ___ pulmonary HTN exacerbation; ?
amlodipine ___ worsening ___ edema, on hold). Less concern 
for
PE (though considerable risk with revlimid, no heart strain on
recent TTE). Recent ___ negative. TTE ___ showed mild
symmetric LVH with normal cavity size and regional/global
biventricular systolic function as well as moderate mitral
regurgitation, mild pulmonary artery systolic HTN and mild AR
with mildly thickened leaflets. At this juncture, we consulted
cardiology ___ who thinks that patient most likely has acute
on chronic diastolic heart failure and suspect hypertensive 
heart
disease to be the likely etiology; however, cardiac MRI could be
obtained if her heart failure is progressive and does not 
respond
to therapy (would also evaluate for amyloid). In the meantime, 
we
continued diuresis and changed HTN regimen as below.

Treatment plan
-Continue Carevdilol 25mg BID ___ (switched from atenolol)
-Continue Spironolactone 25mg now every other day as of ___
due to ___ as below
-On Lasix 40mg po every other day due to ___ as below
-Goal weight 170lb outpatient 
-Strict I/O
-Daily weights outpatient
-Compression stockings
-Low NA+ diet
-will need f/u cardiology outpatient (patient given number to
request appt)

#PRESUMED PNEUMONIA: Unclear etiology/organism. CTA Chest ___
was obtained in s/o disproportionate shortness of breath/dyspnea
on exertion in relation to anticipated response from aggressive
diuresis. Imaging ruled out PE but noted GGOs within RLL,
adjacent to pleural effusion, likely reflecting atelectasis,
although underlying infection cannot be excluded. In this
context, felt it was reasonable to cover her for community
acquired pneumonia with levofloxacin. However, also invoked
possibility of PJP pneumonia albeit no evidence of fulminant
respiratory failure, fever, dry cough or hypoxemia. She has had
LDH elevation since diagnosis that actually appears to be
improving. Of note, as she has not been on PJP prophylaxis, felt
that she was at considerable risk given steroid exposure so
favored PJP treatment with Bactrim pending further workup.

Treatment Plan
--------------------
-Bactrim DS (D1: ___. If fungal markers neg (specifically 
BD
glucan), will transition to SS Bactrim for prophylaxis, d/c home 
with DS Bactrim for now
-Initiated on Levofloxacin (D1: ___
-F/U fungal markers, strep A, legionella
-Consider pulmonary consult and/or repeat imaging if SOB worsens

#HYPERTENSIVE URGENCY: Asymptomatic, with some improvement.
Uptrending since admission, ___. Likely
exacerbated in the setting of acute illness and heart failure
exacerbation. Renal function is normal. Cardiology following and
helping to adjust regimen as appropriate.

Treatment Plan
-Continue lisinopril 40mg daily
-Switched atenolol to carvedilol 25mg BID
-Added spironolactone 25mg every other day and hydralazine 10mg
TID and prn
-added back low dose amlodipine (2.5mg daily) 
-cards outpatient

___: improved. Cr increase to 1.1 with BUN 14 ___ from
baseline Cr 0.6-0.7 and BUN ___. likely secondary to cardiac
medications/diuretics.
-changed spironolactone and Lasix to every other day as above
-adjust cardiac medications prn

#MULTIPLE MYELOMA, IgG lambda: High risk disease by R-IPSS she
has elevated LDH and beta2microglobulin (stage 3) and by FISH 
she
has 1q gain (high risk) and IGH/myc rearrangement. Overall, plan
to proceed towards ASCT if achieves good response w/ induction.
Now status post 3C of RVD (though D11 of C3 held in s/o heart
failure exacerbation)
-Hold RVD for now
-Continue acyclovir 400mg BID, refer above regarding PJP ppx
-Continue home ASA for VTE ppx
-Protein/Cr ratio, okay; UPEP PND

CHRONIC/STABLE/RESOLVED CONDITIONS
======================================

#HYPOKALEMIA: Likely due to aggressive diuresis, repleting
accordingly. Trend electrolytes BID. 

#SINUS BRADYCARDIA: HR ___ intermittently. Asymptomatic.
Appears to be chronic. Monitor and trend HR

#ANEMIA IN MALIGNANCY/THROMBOCYTOPENIA: Stable. Overall
downtrending in s/o disease vs. treatment/medication effects. 
-Added Folic acid 1mg daily ___ 
-Trend CBC daily.
-Transfuse if hgb < 7
-Active T&S

#HYPERLIPIDEMIA: Continue home atorvastatin 80mg QPM.

#DMII: Stable since admission.
-Hold home metformin
-Humalog ISS

CORE MEASURES
======================
#FEN: Low Na, IVF/Encourage PO, Replete Electrolytes PRN
#PPX: Heparin SC BID, hold if platelets < 50K
#ACCESS: PIV
#CODE: Full Code
#COMMUNICATION: Patient
#EMERGENCY CONTACT HCP: ___ (friend) ___

DISPO: home with ___ f/u ___ or sooner if issues arise

transitional issues

[ ] f/u with Beta glucan outpatient, if negative can change DS 
Bactrim to ppx dosing

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Acyclovir 400 mg PO BID 
2. Multivitamins W/minerals 1 TAB PO DAILY 
3. Atenolol 100 mg PO DAILY 
4. Atorvastatin 80 mg PO QPM 
5. Aspirin 81 mg PO DAILY 
6. Betamethasone Dipro 0.05% Oint 1 Appl TP Q12H:PRN rash 
7. Calcium 600 + D(3) (calcium carbonate-vitamin D3) 600-125 
mg-unit oral DAILY 
8. Lisinopril 40 mg PO DAILY 
9. MetFORMIN XR (Glucophage XR) 500 mg PO BID 
10. Dexamethasone 20 mg PO ASDIR 
11. Furosemide 20 mg PO DAILY 
12. magnesium gluconate 27 mg magnesium (500 mg) oral DAILY 
13. Lenalidomide 25 mg PO DAILY 

 
Discharge Medications:
1.  amLODIPine 2.5 mg PO DAILY  
2.  CARVedilol 25 mg PO BID  
3.  FoLIC Acid 1 mg PO DAILY  
4.  HydrALAZINE 10 mg PO Q8H  
5.  LevoFLOXacin 750 mg PO DAILY Duration: 5 Doses 
take through ___ then off  
6.  Spironolactone 25 mg PO EVERY OTHER DAY  
7.  Sulfameth/Trimethoprim DS 2 TAB PO TID 
take until Dr ___ to stop  
8.  Furosemide 40 mg PO EVERY OTHER DAY  
9.  Acyclovir 400 mg PO BID  
10.  Aspirin 81 mg PO DAILY  
11.  Atorvastatin 80 mg PO QPM  
12.  Betamethasone Dipro 0.05% Oint 1 Appl TP Q12H:PRN rash  
13.  Calcium 600 + D(3) (calcium carbonate-vitamin D3) 600-125 
mg-unit oral DAILY  
14.  Dexamethasone 20 mg PO ASDIR 
___ ___ WILL LET ___ KNOW WHEN TO START MEDICATION  
15.  Lenalidomide 25 mg PO DAILY 
___ ___ WILL LET ___ KNOW WHEN TO START MEDICATION  
16.  Lisinopril 40 mg PO DAILY  
17.  MetFORMIN XR (Glucophage XR) 500 mg PO BID 
Do Not Crush  
18.  Multivitamins W/minerals 1 TAB PO DAILY  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Primary Diagnoses
========================
Acute on Chronic Diastolic Heart Failure
Pneumonia
HTN Urgency

Secondary Diagnoses
===========================
Multiple Myeloma

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Mrs. ___,

___ were admitted with worsening shortness of breath and leg 
swelling. Work up for this showed heart failure. ___ were 
evaluated by your cardiologist and was started on heart 
medications to help optimize your symptoms. Please continue to 
take all of your medications as prescribed. Your appointment 
with Dr. ___ is as follows. It was a pleasure taking care of 
___
 
Followup Instructions:
___